* C:\Users\alee2\Documents\GitHub\AnalogDigitalComms_HardwareRadio\Mixer\GilbertCell_Mixer_Trial2.asc
Q1 N001 N005 N007 0 2N3904
Q2 N002 N006 N007 0 2N3904
Q6 N007 N010 N013 0 2N3904
R1 0 N004 50
R2 Vcc N001 270
R3 Vcc N002 270
R4 N013 0 270
V3 Vcc 0 12
Q3 N001 N006 N008 0 2N3904
Q4 N002 N005 N008 0 2N3904
Q5 N008 N011 N013 0 2N3904
C2 N005 N004 01.µ
C3 N010 N009 0.1µ
V1 N004 0 SINE(1m 0.25 1.1g) AC 1
R12 0 N009 50
R13 N003 N006 2.2k
R14 N003 N005 2.2k
R15 N012 N011 2.2k
R16 N003 N012 3.3k
R17 0 N012 2.2k
R18 N003 Vcc 4.7k
C4 N003 0 0.1µ
C1 N012 0 2.2µ
E1 out 0 N001 N002 1
C5 out_lpf 0 22.5p
R6 out out_lpf 50
V2 N009 0 SINE(1m .5 0.525g) AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\alee2\AppData\Local\LTspiceXVII\lib\cmp\standard.bjt
.include engr2420.sub
.tran 0 1000n 0 100p
.backanno
.end
